// Generated for: spectre
// Generated on: Apr 30 18:07:10 2024
// Design library name: LDO_TCASI_Yan_N65
// Design cell name: tb_DC
// Design view name: schematic
simulator lang=spectre
global 0
parameters C1 CB IB
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_bip
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_33
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_mim
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_dnw
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_18
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_bip_npn
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_33
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfrtmom
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_mos_cap_25
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_18
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_disres
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_res
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_33
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_hvt
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmvar
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_18
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_na
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na33
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_lvt
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfres_sa
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_na33
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_esd
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmim
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25od33
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_25od33
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_mos_cap
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25ud18
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_25
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_25ud18
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na25od33
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfjvar
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_25
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_rtmom
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_na25od33
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na25
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfres_rpo
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_hvt
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfind
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmvar_25
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_na25
include "~/spectre_N65/crn65gplus_2d5_lk_v1d0.scs" section=tt_lvt

// Library name: LDO_TCASI_Yan_N65
// Cell name: LDO_Core
// View name: schematic
subckt LDO_Core VFB VIN VOUT VREF VSS
    M15 (net28 net27 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M16 (net50 net27 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M12 (net34 net27 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M11 (net37 net34 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M19 (net19 net7 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M20 (net15 net7 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M21 (net7 net7 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M14 (net27 net27 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M3 (net20 VFB net19 VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M2 (net20 net48 net19 VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M1 (net16 VREF net19 VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M0 (VOUT net37 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M18 (net15 net15 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M17 (net27 net15 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M13 (net37 net15 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M10 (net37 net37 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M9 (net34 net50 net37 VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M8 (net50 net28 VFB VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M7 (net28 net28 net48 VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M6 (net48 net16 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M5 (net20 net20 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M4 (net16 net20 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    CB (net28 VSS) capacitor c=CB
    C1 (net7 VSS) capacitor c=C1
    I0 (VIN net7) isource dc=IB type=dc
ends LDO_Core
// End of subcircuit definition.

// Library name: LDO_TCASI_Yan_N65
// Cell name: tb_DC
// View name: schematic
I0 (VOUT VIN VOUT VREF VSS) LDO_Core
V2 (VIN 0) vsource dc=1.2 type=dc
V1 (VREF 0) vsource dc=1 type=dc
V0 (VSS 0) vsource dc=0 type=dc
C3 (VOUT VSS) capacitor c=130p
I1 (VOUT VSS) isource dc=0 type=dc
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save V0:p I0:2 
saveOptions options save=allpub
